2176-05-07 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2176-5-6**] 06:47 PM
   [**5-7**]
   - Initiated on Meropenem
   - Bolused with 1 amp Bicarb, then given D5W with 3 amps of HC03
   - FS 40 [**12-1**] Amp given
   - Remained on Levo overnight
   - Per family:
30 seconds of CPR
. Pt made CPR not clinically indicated
   by Dr. [**First Name (STitle) **].
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-5-5**] 03:36 AM
   Linezolid - [**2176-5-6**] 09:56 PM
   Acyclovir - [**2176-5-7**] 12:00 AM
   Meropenem - [**2176-5-7**] 07:05 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-6**] 08:00 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2176-5-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-7**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 90 (86 - 122) bpm
   BP: 74/47(53) {68/26(26) - 124/103(111)} mmHg
   RR: 27 (17 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
             Total In:
                                                                  4,809 mL
                                                                    662 mL
   PO:
             TF:
   IVF:
                                                                  4,759 mL
                                                                    542 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    960 mL
   Urine:
                                                                    750 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,059 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: ///16/
   Ve: 10.6 L/min
   Physical Exam:
   General Appearance: chronically ill appearing, anasarcic, intubated and
   sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, well healed scar on scalp
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Absent), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), slight mottling of LEs, cool and very peripherally
   vasoconstricted
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly, Diminished: breath sounds at bases)
   Abdominal: Soft, Non-tender, decreased BS, mild distention
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   66 K/uL
   8.4 g/dL
   89 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.4 mEq/L
   8 mg/dL
   95 mEq/L
   129 mEq/L
   25.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2176-4-30**]  06:50 AM
                             [**2176-5-1**]  04:24 AM
                             [**2176-5-1**]  05:46 PM
                             [**2176-5-4**]  07:31 PM
                             [**2176-5-4**]  08:34 PM
                             [**2176-5-4**]  09:45 PM
                             [**2176-5-5**]  12:55 AM
                             [**2176-5-5**]  03:20 AM
                             [**2176-5-6**]  06:41 PM
                             [**2176-5-7**]  03:51 AM
   WBC
   12.7
   10.9
   10.1
   7.7
   9.0
   Hct
   21.6
   34.4
   29.4
   30.2
   25.0
   Plt
   116
   99
   82
   68
   66
   Cr
   0.4
   0.4
   0.7
   0.6
   0.6
   0.7
   0.6
   TropT
   0.28
   0.23
   0.22
   0.23
   0.26
   TCO2
   26
   10
   Glucose
   88
   103
   238
   189
   210
   187
   89
   Other labs: PT / PTT / INR:22.3/53.5/2.1, CK / CKMB /
   Troponin-T:77/14/0.26, ALT / AST:154/217, Alk Phos / T Bili:199/1.0,
   Amylase / Lipase:76/67, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:8.1 %, Mono:2.9 %, Eos:0.9 %, Fibrinogen:199 mg/dL, Lactic
   Acid:9.8 mmol/L, Albumin:2.7 g/dL, LDH:775 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   60yo woman with ALL s/p chemo and recent VRE bacteremia with VRE CNS
   infection with multiple admissions to [**Hospital Unit Name 10**] who is now being transferred
   to ICU s/p hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: In setting of severe anion-gap metabolic
   acidosis. ABG on BMT floor with PaO2 86 but then subsequently dropped
   O2 sats to 70% on NRB requiring intubation. Unclear precipitant but may
   have many contributing factors including possible worsening pulmonary
   edema in setting of cardiogenic shock, worsening sepsis. [**Month (only) 11**] have also
   tired as pt very tachypneic due to metabolic AG acidosis; but never
   developed hypercarbia, arguing against this.
   - Will likely need aline and is very hard stick. Will retry once
   rewarmed with baerhugger. Apparently has needed axillary aline before.
   - Will eventually need IV diuresis with lasix. Given recent hypotension
   with elevated lactate to 14.4 and pressor requirement, will favor
   holding off for now. If hemodynamics improve, will start diuresis in
   AM.
   - Can try to follow CVPs on femoral line.
   - Obtain TTE.
   - Start dobutamine gtt for possible cardiogenic shock --> pulm edema
   --> hypoxic respiratory failure.
   - Cover broadly with linezolid, acyclovir, atovaquone. Adding
   meropenem.
   .
   # Hypotension: Main considerations here are cardiogenic vs infectious
   causes of hypotension. Mostly strongly suspect cardiogenic cause as pt
   very cold, clamped down on arrival to unit. Also has not had a  fever
   or luekocytosis to suggest infection. However, cannot entirely rule out
   septic cause in this pt with recent high grade VRE bacteremia in
   setting of indwelling femoral line. Has significant evidence of
   hypoperfusion as has low urine output and very elevated lactate.
   Hypotension may also be [**1-1**] PE; however, feel that cardiogenic or
   septic shock would be more likely diagnostic considerations.
   - Continue levophed gtt and start dobutamine gtt for treatment of
   likely cardiogenic shock.
   - TTE in am to assess LVEF and r/o RV overload.
   - Hold on diuresis for now until pt more HD stable.
   - IVF boluses (although evidence of pulm edema) to bump pt up on her
   Starling curve.
   - Empiric IV abx coverage with linezolid, meropenem, acylclovir,
   atovaquone.
   - Bld cxs, UA, urine cx.
   .
   # Anion gap metabolic acidosis: With initially some compensation from
   respiratory alkalosis. AG acidosis [**1-1**] significantly elevated lactate
   in setting of global decreased perfusion. Elevated lactate may also be
   exacerbated by use of IV linezolid; however, given recent daptomycin
   resistance in VRE strains on BMT floor, would favor keeping on
   linezolid for now.
   - Follow serial lactates. If remains elevated, doubt that pt would make
   any meaningful recovery and will rediscuss with son.
   - Levophed, dobutamine, IVFs as above to increase perfusion.
   - s/p 1 amp HCO3 and getting 3 additional amps of HCO3 with D5W now.
   - Follow serial pH and give HCO3 for pH < 7.2
   - Attempt to maintain MAP > 65.
   - maintain MAP > 65
   .
   # Hyperkalemia: [**1-1**] increased cell death from elevated lactate and
   metabolic acidosis is also contributing to extracellular hyperkalemia.
   [**Month (only) 11**] also be sign of developing renal failure, but for now Cr is still
   wnl.
   - s/p HCO3 amps as above.
   - Give PR kayexalate.
   - Consider IV calcium for cardiac stabilization, thus far no
   significant hyperkalemic cardiac changes on telemetry.
   - Check EKG.
   .
   # Coagulopathy - INR rising although plts relatively stable over past
   24 hours.
   - Check DIC labs.
   - If fibrinogen low, will transfuse with cryoprecipitate and hold on
   plt transfusions.
   - Monitor INR.
   .
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however infected Omaya removed on [**4-16**] and still has
   indwelling femoral TLC. Recent LP reassuring.
   - f/u repeat blood, urine cxs.
   - No role for repeat LP at this point as recent LP reassuring.
   - Needs 4 week course of linezolid since Omaya removed ([**4-16**]).
   - Appreciate ID following.
   .
   # Hyponatremia:  Felt to be due to SIADH. Is improved from prior.
   - fluid restriction to 1L.
   - monitor serial Na
   - although recent renal recs suggest lasix rather than salt tabs, will
   be mindful of blood pressure prior to giving any lasix doses
   - appreciate renal recs
   .
   # ALL: Not currently receiving active treatment. Prognosis poor.
   - appreciate oncology input
   - acyclovir and atovaquone for PPx
   .
   # Anemia:  Stable.
   - active type and screen
   - monitor
   .
   # Thrombocytopenia: Likely due to marrow suppression after recent
   chemotherapy.
   - monitor
   .
   # Acute on chronic systolic heart failure: Recent EF newly depressed at
   20%, possibly due to her chemotherapy.  Total body volume overloaded,
   but will hold off on diuresis given hypotension as above.
   - Mgmt of posible cardiogenic shock as above.
   .
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis.
   .
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   .
   # Hypothyroidism:  On IV levothyroxine.
   .
   # FEN:  Will need OGT/NGT placement for po meds, starting tube feeds.
   .
   # Access:  Femoral line placed by IR [**4-12**]
   .
   # PPx:  famotidine, subQ heparin (at [**Hospital1 **] given recent increase in PTT)
   .
   # Comm:  son [**Name (NI) 6306**] aware of transfer to ICU
   .
   # Code:  per son [**Name (NI) 6306**]/HCP, would only pursue 30-60 sec of CPR. D/w ICU
   attg, made CPR not indicated
   .
   # Dispo:  ICU pending further work-up

2176-05-08 06:14:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - LINES: new right femoral venous TLC placed, new left femoral arterial
   line placed, old left femoral venous TLC d/c'd
   - vigileo connected to femoral a-line --> CO 3.2, CI 2.0
   - received cryo/FFP periprocedurally
   - continued on norepinephrine gtt, attempting to wean
   - TTE - EF 25%, mild pulm HTN
   - continued intubation: AC RR=10, TV=450, PEEP=10, FiO2=50% -->
   alkalotic --> eventually switched to Pressure Control w PEEP of 5
   - linezolid switched to daptomycin
   = cipro added for Pseudomonas dble coverage
   - thiamine IV for lactic acidosis (improved!)
   TFs
   - d/c'd heparin sc --> pneumoboots
   Allergies:
   Sulfa (Sulfonamides) - Rash;
   Penicillins - Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache;
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin - Nausea/Vomiting
   Aspartame - Unknown;
   Fentanyl - Arrhythmia/Palp
   Last dose of Antibiotics:
   Linezolid - [**2176-5-6**] 09:56 PM
   Daptomycin - [**2176-5-7**] 05:00 PM
   Ciprofloxacin - [**2176-5-7**] 05:40 PM
   Acyclovir - [**2176-5-8**] 12:00 AM
   Meropenem - [**2176-5-8**] 04:55 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2176-5-7**] 10:05 AM
   Famotidine (Pepcid) - [**2176-5-7**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-8**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.7
   HR: 94 (85 - 104) bpm
   BP: 105/62(77) {92/59(70) - 124/76(92)} mmHg
   RR: 20 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
    CVP: 11 (10 - 64)mmHg
   Total In:
                                                                  2,946 mL
                                                                    493 mL
   PO:
   TF:
   IVF:
                                                                  2,041 mL
                                                                    493 mL
   Blood products:
                                                                    735 mL
   Total out:
                                                                  3,835 mL
                                                                    460 mL
   Urine:
                                                                  3,435 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -889 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 400 (400 - 450) mL
   PS : 7 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 92
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/33/118/26/4
   Ve: 4.6 L/min
   PaO2 / FiO2: 393
   Physical Examination
   GEN: ill-appearing woman w anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, well healed scar on scalp
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Absent), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), slight mottling of LEs, cool and very peripherally
   vasoconstricted
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly, Diminished: breath sounds at bases)
   Abdominal: Soft, Non-tender, decreased BS, mild distention
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   63 K/uL
   7.7 g/dL
   81 mg/dL
   0.5 mg/dL
   26 mEq/L
   2.5 mEq/L
   6 mg/dL
   95 mEq/L
   130 mEq/L
   22.2 %
   4.8 K/uL
        [image002.jpg]
                             [**2176-5-5**]  12:55 AM
                             [**2176-5-5**]  03:20 AM
                             [**2176-5-6**]  06:41 PM
                             [**2176-5-7**]  03:51 AM
                             [**2176-5-7**]  12:35 PM
                             [**2176-5-7**]  08:30 PM
                             [**2176-5-7**]  09:30 PM
                             [**2176-5-7**]  11:26 PM
                             [**2176-5-8**]  02:11 AM
                             [**2176-5-8**]  04:00 AM
   WBC
   10.1
   7.7
   9.0
   6.6
   4.8
   Hct
   29.4
   30.2
   25.0
   25.0
   22.2
   Plt
   82
   68
   66
   72
   63
   Cr
   0.6
   0.7
   0.6
   0.5
   TropT
   0.23
   0.22
   0.23
   0.26
   TCO2
   28
   28
   26
   28
   Glucose
   [**Telephone/Fax (2) 6543**]
   Other labs: PT / PTT / INR:17.0/37.3/1.5, CK / CKMB /
   Troponin-T:77/14/0.26, ALT / AST:114/140, Alk Phos / T Bili:194/1.2,
   Amylase / Lipase:76/67, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:211 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:400 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   currently admitted to the ICU for respiratory failure.
   # Hypoxic respiratory failure: In setting of severe anion-gap metabolic
   acidosis. ABG on BMT floor with PaO2 86 but then subsequently dropped
   O2 sats to 70% on NRB requiring intubation. Unclear precipitant but may
   have many contributing factors including possible worsening pulmonary
   edema in setting of cardiogenic shock, worsening sepsis. [**Month (only) 11**] have also
   tired as pt very tachypneic due to metabolic AG acidosis; but never
   developed hypercarbia, arguing against this.  Lactate improving today.
   Still on levo.
   - Will eventually need IV diuresis with lasix, if hemodynamics improve
   - Can try to follow CVPs on femoral line.
   - Obtain TTE results
   - if needed will start dobutamine gtt for possible cardiogenic shock
   - Cover broadly with linezolid, acyclovir, atovaquone, and now
   meropenem
   - Sputum for cx
   - adjust vent settings to decrease RR today, and try to reduce FIO2
   today
   .
   # Hypotension: Main considerations here are cardiogenic vs infectious
   causes of hypotension. Mostly strongly suspect cardiogenic cause as pt
   very cold, clamped down on arrival to unit. Also has not had a  fever
   or luekocytosis to suggest infection. However, cannot entirely rule out
   septic cause in this pt with recent high grade VRE bacteremia in
   setting of indwelling femoral line.  Also has Klebsiella in sputum, was
   thought to be colonization. Has significant evidence of hypoperfusion
   as has low urine output and very elevated lactate. Hypotension may also
   be [**1-1**] PE; however, feel that cardiogenic or septic shock would be more
   likely diagnostic considerations.
   - Continue levophed gtt and start dobutamine gtt for treatment of
   likely cardiogenic shock if needed (has hx of arrthymias on dobutamine,
   so may need milirone)
   - if starting dobutamine may need femeral a-line to monitor BP
   - will try to replace central line with right sided line
   - monitor UO
   - TTE in am to assess LVEF and r/o RV overload.
   - Hold on diuresis for now until pt more HD stable.
   - Empiric IV abx coverage with linezolid, meropenem, acylclovir,
   atovaquone.
   - Bld cxs, UA, urine cx, sputum cx
   .
   # Anion gap metabolic acidosis: With initially some compensation from
   respiratory alkalosis. AG acidosis [**1-1**] significantly elevated lactate
   in setting of global decreased perfusion. Elevated lactate may also be
   exacerbated by use of IV linezolid; however, given recent daptomycin
   resistance in VRE strains on BMT floor, would favor keeping on
   linezolid for now. Lactate now improving, and Ph improved with bicarb
   - Follow serial lactates. If remains elevated, may need to change
   linezolid to prevent mitochondiral damage
   - Levophed for now and PRN dobutamine
   - Attempt to maintain MAP > 65
   - will give thiamine
   .
   # Hyperkalemia: [**1-1**] increased cell death from elevated lactate and
   metabolic acidosis is also contributing to extracellular hyperkalemia.
   [**Month (only) 11**] also be sign of developing renal failure, but for now Cr is still
   wnl.  Now improved.
   - monitor lytes
   .
   # Coagulopathy - INR rising although plts relatively stable over past
   24 hours.
   - monitor coags and hct in PM with repeat fibrinogen
   - will given FFP for procedures
   - Monitor INR.
   .
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however infected Omaya removed on [**4-16**] and still has
   indwelling femoral TLC. Recent LP reassuring.
   - f/u repeat blood, urine cxs.
   - No role for repeat LP at this point as recent LP reassuring.
   - Needs 4 week course of linezolid since Omaya removed ([**4-16**]).
   - Appreciate ID following.
   -discuss line change
   .
   # Hyponatremia:  Felt to be due to SIADH. Is improved from prior.
   - fluid restriction to 1L.
   - monitor serial Na
   - although recent renal recs suggest lasix rather than salt tabs, will
   be mindful of blood pressure prior to giving any lasix doses
   - appreciate renal recs
   .
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Anemia:  Stable.
   - active type and screen
   - trasfuse for <25
   - monitor
   .
   # Thrombocytopenia: Likely due to marrow suppression after recent
   chemotherapy.
   - monitor
   .
   # Acute on chronic systolic heart failure: Recent EF newly depressed at
   20%, possibly due to her chemotherapy.  Total body volume overloaded,
   but will hold off on diuresis given hypotension as above.
   - Mgmt of posible cardiogenic shock as above.
   -TTE today
   .
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis.
   .
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   .
   # Hypothyroidism:  On IV levothyroxine.
   # Comm:  son [**Name (NI) 6306**] aware of transfer to ICU
   .
   # Code:  per son [**Name (NI) 6306**]/HCP, would only pursue 30-60 sec of CPR. D/w ICU
   attg, made CPR not indicated beyond 30-60sec
   .
   # Dispo:  ICU pending further work-up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM (Right femoral venous TLC)
   Arterial Line - [**2176-5-7**] 08:49 PM (Left femoral arterial line)
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-05-09 07:36:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - had 2 units of RBCs- hct from 22 to 27
   - weaned off norepinephrine gtt at 1pm and midazolam gtt at 2:30pm
   - vent reduced to [**6-2**] at 30% O2
   - RSBI 367
   - restarted tube feeds, stopping at midnight for attempted extubation
   on [**5-9**]
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Linezolid - [**2176-5-6**] 09:56 PM
   Daptomycin - [**2176-5-8**] 04:33 PM
   Acyclovir - [**2176-5-8**] 11:44 PM
   Ciprofloxacin - [**2176-5-9**] 06:00 AM
   Meropenem - [**2176-5-9**] 06:24 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-8**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-9**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 93 (90 - 105) bpm
   BP: 105/70(82) {93/58(70) - 133/82(133)} mmHg
   RR: 18 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
    CVP: 18 (10 - 18)mmHg
   CO 4
   CI  2.4
   Total In:
                                                                  2,833 mL
                                                                    623 mL
   PO:
                                   TF:
                                                                     50 mL
                                                                     73 mL
   IVF:
                                                                  2,417 mL
                                                                    550 mL
   Blood products:
                                                                    286 mL
   Total out:
                                                                  1,025 mL
                                                                    140 mL
   Urine:
                                                                  1,025 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 296 (224 - 431) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 367
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: 7.50/34/94.[**Numeric Identifier 433**]/22/3
   Ve: 4 L/min
   PaO2 / FiO2: 313
   Physical Examination
   GEN: ill-appearing woman w anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, well healed scar on scalp
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Absent), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), slight mottling of LEs, cool and very peripherally
   vasoconstricted
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly, Diminished: breath sounds at bases)
   Abdominal: Soft, Non-tender, decreased BS, mild distention
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   56 K/uL
   9.7 g/dL
   100 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.9 mEq/L
   9 mg/dL
   96 mEq/L
   129 mEq/L
   27.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2176-5-7**]  03:51 AM
                             [**2176-5-7**]  12:35 PM
                             [**2176-5-7**]  08:30 PM
                             [**2176-5-7**]  09:30 PM
                             [**2176-5-7**]  11:26 PM
                             [**2176-5-8**]  02:11 AM
                             [**2176-5-8**]  04:00 AM
                             [**2176-5-8**]  04:03 PM
                             [**2176-5-8**]  04:53 PM
                             [**2176-5-9**]  04:53 AM
   WBC
   9.0
   6.6
   4.8
   5.9
   Hct
   25.0
   25.0
   22.2
   27.3
   27.7
   Plt
   66
   72
   63
   56
   Cr
   0.6
   0.5
   0.5
   0.4
   TropT
   0.26
   TCO2
   28
   28
   26
   28
   27
   Glucose
   89
   81
   74
   100
   Other labs:
   PT / PTT / INR:17.0/37.3/1.5,
   CK / CKMB / Troponin-T:77/14/0.26,
   ALT / AST:89/71, Alk Phos / T Bili:235/1.2,
   Amylase / Lipase:76/67,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %,
   Fibrinogen:211 mg/dL,
   Lactic Acid:2.3 mmol/L,
   Albumin:2.7 g/dL, LDH:399 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Micro: no new data
   Assessment and Plan
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   multiple [**Hospital Unit Name 10**] admissions, currently in the ICU for respiratory failure.
   # Acute respiratory failure: Intubated on [**5-6**] due to respiratory
   distress likely from shock - cardiogenic (TTE [**5-7**] w LVEF 25%) vs septic
   (infxn). RSBI 66.
   - mechanical ventilation
 SBT today
   - treat possible cardiogenic and septic shock (see below)
   # Hypotension/Shock: Cardiogenic vs septic or both. Cardiogenic shock
   in the setting of severe acute on chronic CHF [**1-1**] chemotherapy, LVEF
   25% on TTE [**5-7**]. Total body volume overloaded. Sepsis [**1-1**] infection w
   possible sources including prior VRE infection, VRE line infection (s/p
   R femoral venous TLC removal on [**5-7**]), Klebsiella PNA ([**4-26**], [**4-29**] sputum
   cxs growing pan-sensitive Klebsiella). Elevated lactate and low UOP in
   the setting of poor perfusion. No clinical sxs/ss of infection,
   however, given h/o prior infections and chronic illness, still high
   risk.  Now s/p new line placement [**5-7**]. Improving CO/CI.
   - continue broad antimicrobial coverage: meropenem, daptomycin,
   ciprofloxacin, atovaqone, acyclovir
   - monitor UOP, if less will try dobutamine
   - hold on diuresis for now until pt more HD stable
   - monitor CO, CI and hemodynamics
   - f/u bl cxs, UA, urine cx, sputum cx
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however, infected Omaya removed on [**4-16**] and indwelling left
   femoral venous TLC removed on [**5-7**]. S/p linezolid, now switched to
   daptomycin.
   - f/u bl cxs
   - d/w ID daptomycin course (possibly 4 wks post femoral line removal)
   - ID recs
   # Hyponatremia: likely [**1-1**] SIADH, improved from prior
   - fluid restriction to 1L.
   - monitor serial Na
   - consider salt tabs
   - f/u renal recs
   # Anion-gap metabolic acidosis: Likely from tissue hypoperfusion in the
   setting of hypotension/shock, however, ddx also included linezolid side
   effect vs thiamine deficiency. Lactate 14.4 on ICU transfer, now
   lactate 2.2, anion gap is normal. Linezolid switched to daptomycin.
   Resolved.
   - continue to monitor lactate levels
   - PO thiamine (IV was held off due to possible contamination with
   latex)
   # Abnormal potassium (Hypo/Hyperkalemia): Likely in the setting of
   acidosis/alkalosis. AM of [**5-8**]- 2.5.
   - monitor and replete as needed
   .
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Coagulopathy:  elevated INR
   - monitor coags and hct in PM with repeat fibrinogen
   - will be given FFP for procedures
   - Monitor INR.
   # Anemia:  [**1-1**] chemo, malignancy and acute blood loss from procedures.
   - active type and screen
   - trasfuse for <25 (1 pRBCs today)
   - monitor Hct in PM
   # Thrombocytopenia: [**1-1**] chemo and malignancy
   - monitor PLT levels
   - transfuse for < 20
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis. Stable.
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   # Hypothyroidism:  On IV levothyroxine.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2176-5-8**] 07:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM
   Arterial Line - [**2176-5-7**] 08:49 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: son [**Male First Name (un) 6306**]
   Code status: DNR
   Disposition:

2176-05-10 07:31:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Diuresed w lasix 40mg IV X 2
   - SBT attempted, ABG 7.57/23/110/22
   - [**Name (NI) **] son who will be in tomorrow
   - Due to peroids of apnea had to be started on MMV, try to transition
   to PSV for am rounds
   - ID recs: d/c Cipro? Need to discuss on am rounds.
   - Off Versed
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Daptomycin - [**2176-5-9**] 03:38 PM
   Ciprofloxacin - [**2176-5-9**] 05:00 PM
   Acyclovir - [**2176-5-10**] 12:15 AM
   Meropenem - [**2176-5-10**] 05:32 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-9**] 08:38 PM
   Furosemide (Lasix) - [**2176-5-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-10**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 93 (93 - 108) bpm
   BP: 106/66(80) {106/66(80) - 132/91(105)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
    CVP: 11 (7 - 21)mmHg
   Total In:
                                                                  1,913 mL
                                                                    701 mL
   PO:
   TF:
                                                                    240 mL
                                                                     75 mL
   IVF:
                                                                  1,583 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                  3,335 mL
   Urine:
                                                                  3,190 mL
                                                                  3,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,277 mL
                                                                 -2,635 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 411 (222 - 411) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 127
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.56/29/138/24/5
   Ve: 4.4 L/min
   PaO2 / FiO2: 460
   Physical Examination
   GEN: ill-appearing woman w anasarca, will open eyes and squeeze fingers
   after awaking with sternal rub
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, well healed scar on scalp
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Absent), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), slight mottling of LEs, cool
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly, Diminished: breath sounds at bases)
   Abdominal: Soft, Non-tender, decreased BS, mild distention
   Extremities: Right: 3+, Left: 3+
   Neurologic: moves all extremities, reponds to some commands
   Labs / Radiology
   50 K/uL
   9.8 g/dL
   122 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   93 mEq/L
   130 mEq/L
   26.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2176-5-7**]  11:26 PM
                             [**2176-5-8**]  02:11 AM
                             [**2176-5-8**]  04:00 AM
                             [**2176-5-8**]  04:03 PM
                             [**2176-5-8**]  04:53 PM
                             [**2176-5-9**]  04:53 AM
                             [**2176-5-9**]  01:18 PM
                             [**2176-5-9**]  05:02 PM
                             [**2176-5-9**]  06:27 PM
                             [**2176-5-10**]  02:58 AM
   WBC
   4.8
   5.9
   5.1
   Hct
   22.2
   27.3
   27.7
   26.7
   Plt
   63
   56
   50
   Cr
   0.5
   0.5
   0.4
   0.5
   0.5
   TCO2
   26
   28
   27
   22
   27
   Glucose
   81
   74
   100
   101
   122
   Other labs: PT / PTT / INR:17.0/37.3/1.5, CK / CKMB /
   Troponin-T:77/14/0.26, ALT / AST:74/55, Alk Phos / T Bili:248/1.2,
   Amylase / Lipase:76/67, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:211 mg/dL, Lactic
   Acid:4.2 mmol/L, Albumin:2.7 g/dL, LDH:412 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   multiple [**Hospital Unit Name 10**] admissions, currently in the ICU for respiratory failure.
   # Acute respiratory failure: Intubated on [**5-6**] due to respiratory
   distress likely from shock - cardiogenic (TTE [**5-7**] w LVEF 25%) vs septic
   (infxn). RSBI 127
   - mechanical ventilation
 try PS again if pt more awake
   - treat possible cardiogenic and septic shock (see below)
   # Hypotension/Shock: Cardiogenic vs septic or both. Cardiogenic shock
   in the setting of severe acute on chronic CHF [**1-1**] chemotherapy, LVEF
   25% on TTE [**5-7**]. Total body volume overloaded. Sepsis [**1-1**] infection w
   possible sources including prior VRE infection, VRE line infection (s/p
   R femoral venous TLC removal on [**5-7**]), Klebsiella PNA ([**4-26**], [**4-29**] sputum
   cxs growing pan-sensitive Klebsiella). Elevated lactate and low UOP in
   the setting of poor perfusion. No clinical sxs/ss of infection,
   however, given h/o prior infections and chronic illness, still high
   risk.  Now s/p new line placement [**5-7**]. Improving CO/CI.
   - continue broad antimicrobial coverage: meropenem, daptomycin,
   ciprofloxacin, atovaqone, acyclovir
   - monitor UOP, if less will try dobutamine
   - monitor CO, CI and hemodynamics
   - f/u bl cxs, UA, urine cx, sputum cx
   - consider lasix diuresis to goal of -1-2 L per 24 hrs
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however, infected Omaya removed on [**4-16**] and indwelling left
   femoral venous TLC removed on [**5-7**]. S/p linezolid, now switched to
   daptomycin.
   - f/u bl cxs
   - d/w ID daptomycin course (possibly 4 wks post femoral line removal)
   - ID recs
   # Hyponatremia: likely [**1-1**] SIADH, improved from prior
   - fluid restriction to 1L.
   - monitor serial Na
   - consider salt tabs
   - f/u renal recs
   # Anion-gap metabolic acidosis: Likely from tissue hypoperfusion in the
   setting of hypotension/shock, however, ddx also included linezolid side
   effect vs thiamine deficiency. Lactate 14.4 on ICU transfer, now
   lactate 2.2, anion gap is normal. Linezolid switched to daptomycin.
   Resolved.
   - continue to monitor lactate levels
   - PO thiamine (IV was held off due to possible contamination with
   latex)
   # Abnormal potassium (Hypo/Hyperkalemia): Likely in the setting of
   acidosis/alkalosis. AM of [**5-8**]- 2.5.
   - monitor and replete as needed
   .
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Coagulopathy:  elevated INR
   - monitor coags and hct in PM with repeat fibrinogen
   - will be given FFP for procedures
   - Monitor INR.
   # Anemia:  [**1-1**] chemo, malignancy and acute blood loss from procedures.
   - active type and screen
   - trasfuse for <25 (1 pRBCs today)
   - monitor Hct in PM
   # Thrombocytopenia: [**1-1**] chemo and malignancy
   - monitor PLT levels
   - transfuse for < 20
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis. Stable.
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   # Hypothyroidism:  On IV levothyroxine.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2176-5-8**] 07:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM
   Arterial Line - [**2176-5-7**] 08:49 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: son [**Male First Name (un) 6306**]
   Code status: Full code
   Disposition:

2176-05-11 08:11:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - more alert and responsive
   - changed vent in AM from MMV to PS
   - ID recs to d/c cipro, continue meropenem for 7 day course , and
   continued dapto until [**5-13**] ([**Date range (1) 6628**])
   - at 1PM -2.6 liters without extra lasix
   - in afternoon was able to extubate
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-5-10**] 08:00 AM
   Daptomycin - [**2176-5-10**] 04:00 PM
   Meropenem - [**2176-5-11**] 06:24 AM
   Acyclovir - [**2176-5-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-11**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-11**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 105 (93 - 111) bpm
   BP: 116/78(91) {106/67(81) - 125/83(98)} mmHg
   RR: 20 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
    CVP: 11 (9 - 14)mmHg
   Total In:
                                                                  1,951 mL
                                                                    621 mL
   PO:
   TF:
                                                                    110 mL
   IVF:
                                                                  1,841 mL
                                                                    621 mL
   Blood products:
   Total out:
                                                                  4,197 mL
                                                                    310 mL
   Urine:
                                                                  4,197 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,246 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 358 (260 - 358) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 5 cmH2O
   SpO2: 100%
   ABG: 7.47/29/190/22/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 543
   Physical Examination
   GEN: extubated, responds to questions, still very edematous
   CHEST: bilateral breath sounds
   ABD: soft, NT
   EXT: 3+ edema
   NEURO: moves hands, wiggles toes
   Labs / Radiology
   46 K/uL
   9.6 g/dL
   101 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.7 mEq/L
   12 mg/dL
   95 mEq/L
   130 mEq/L
   27.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-5-10**]  02:58 AM
                             [**2176-5-10**]  11:54 AM
                             [**2176-5-10**]  03:36 PM
                             [**2176-5-10**]  03:52 PM
                             [**2176-5-10**]  07:22 PM
                             [**2176-5-10**]  10:55 PM
                             [**2176-5-11**]  02:51 AM
                             [**2176-5-11**]  03:53 AM
                             [**2176-5-11**]  04:50 AM
                             [**2176-5-11**]  05:59 AM
   WBC
   5.1
   6.6
   Hct
   26.7
   27.3
   Plt
   50
   46
   Cr
   0.5
   0.5
   0.6
   TCO2
   30
   29
   23
   19
   21
   21
   22
   Glucose
   122
   102
   101
   Other labs: PT / PTT / INR:18.7/36.7/1.7, CK / CKMB /
   Troponin-T:77/14/0.26, ALT / AST:74/55, Alk Phos / T Bili:248/1.2,
   Amylase / Lipase:76/67, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:211 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.7 g/dL, LDH:412 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   multiple [**Hospital Unit Name 10**] admissions, currently in the ICU for respiratory failure.
   # Acute respiratory failure: Intubated on [**5-6**] due to respiratory
   distress likely from shock - cardiogenic (TTE [**5-7**] w LVEF 25%) vs septic
   (infxn). RSBI 127
   - mechanical ventilation
 try PS again if pt more awake
   - treat possible cardiogenic and septic shock (see below)
   # Hypotension/Shock: Cardiogenic vs septic or both. Cardiogenic shock
   in the setting of severe acute on chronic CHF [**1-1**] chemotherapy, LVEF
   25% on TTE [**5-7**]. Total body volume overloaded. Sepsis [**1-1**] infection w
   possible sources including prior VRE infection, VRE line infection (s/p
   R femoral venous TLC removal on [**5-7**]), Klebsiella PNA ([**4-26**], [**4-29**] sputum
   cxs growing pan-sensitive Klebsiella). Elevated lactate and low UOP in
   the setting of poor perfusion. No clinical sxs/ss of infection,
   however, given h/o prior infections and chronic illness, still high
   risk.  Now s/p new line placement [**5-7**]. Improving CO/CI.
   - continue broad antimicrobial coverage: meropenem, daptomycin,
   ciprofloxacin, atovaqone, acyclovir
   - monitor UOP, if less will try dobutamine
   - monitor CO, CI and hemodynamics
   - f/u bl cxs, UA, urine cx, sputum cx
   - consider lasix diuresis to goal of -1-2 L per 24 hrs
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however, infected Omaya removed on [**4-16**] and indwelling left
   femoral venous TLC removed on [**5-7**]. S/p linezolid, now switched to
   daptomycin.
   - f/u bl cxs
   - d/w ID daptomycin course (possibly 4 wks post femoral line removal)
   - ID recs
   # Hyponatremia: likely [**1-1**] SIADH, improved from prior
   - fluid restriction to 1L.
   - monitor serial Na
   - consider salt tabs
   - f/u renal recs
   # Anion-gap metabolic acidosis: Likely from tissue hypoperfusion in the
   setting of hypotension/shock, however, ddx also included linezolid side
   effect vs thiamine deficiency. Lactate 14.4 on ICU transfer, now
   lactate 2.2, anion gap is normal. Linezolid switched to daptomycin.
   Resolved.
   - continue to monitor lactate levels
   - PO thiamine (IV was held off due to possible contamination with
   latex)
   # Abnormal potassium (Hypo/Hyperkalemia): Likely in the setting of
   acidosis/alkalosis. AM of [**5-8**]- 2.5.
   - monitor and replete as needed
   .
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Coagulopathy:  elevated INR
   - monitor coags and hct in PM with repeat fibrinogen
   - will be given FFP for procedures
   - Monitor INR.
   # Anemia:  [**1-1**] chemo, malignancy and acute blood loss from procedures.
   - active type and screen
   - trasfuse for <25 (1 pRBCs today)
   - monitor Hct in PM
   # Thrombocytopenia: [**1-1**] chemo and malignancy
   - monitor PLT levels
   - transfuse for < 20
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis. Stable.
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   # Hypothyroidism:  On IV levothyroxine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM
   Arterial Line - [**2176-5-7**] 08:49 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 6306**] (son)
   [**Name (NI) 129**] status: Full code
   Disposition:
   :

2176-05-12 07:40:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
   - gave lasix 40ml IV x 1 in afternoon
   - no new changes per BMT and ID
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-5-10**] 08:00 AM
   Daptomycin - [**2176-5-11**] 04:00 PM
   Acyclovir - [**2176-5-12**] 12:49 AM
   Meropenem - [**2176-5-12**] 06:02 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2176-5-11**] 04:00 PM
   Furosemide (Lasix) - [**2176-5-11**] 04:50 PM
   Famotidine (Pepcid) - [**2176-5-11**] 08:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-12**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 97 (94 - 112) bpm
   BP: 120/80(94) {98/60(73) - 123/84(98)} mmHg
   RR: 17 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.8 kg (admission): 61 kg
   Height: 63 Inch
             Total In:
                                                                  1,207 mL
                                                                    382 mL
   PO:
             TF:
   IVF:
                                                                  1,207 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  2,462 mL
                                                                    510 mL
   Urine:
                                                                  2,462 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,255 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: extubated, responds to questions, still very edematous
   CHEST: bilateral breath sounds
   ABD: soft, NT
   EXT: 3+ edema
   NEURO: moves hands, wiggles toes
   Labs / Radiology
   57 K/uL
   8.8 g/dL
   82 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   14 mg/dL
   99 mEq/L
   135 mEq/L
   25.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-5-10**]  03:36 PM
                             [**2176-5-10**]  03:52 PM
                             [**2176-5-10**]  07:22 PM
                             [**2176-5-10**]  10:55 PM
                             [**2176-5-11**]  02:51 AM
                             [**2176-5-11**]  03:53 AM
                             [**2176-5-11**]  04:50 AM
                             [**2176-5-11**]  05:59 AM
                             [**2176-5-11**]  04:39 PM
                             [**2176-5-12**]  05:18 AM
   WBC
   6.6
   Hct
   27.3
   25.5
   Plt
   46
   57
   Cr
   0.5
   0.6
   0.6
   0.6
   TCO2
   29
   23
   19
   21
   21
   22
   Glucose
   102
   101
   108
   82
   Other labs: PT / PTT / INR:17.4/40.5/1.6, CK / CKMB /
   Troponin-T:77/14/0.26, ALT / AST:74/55, Alk Phos / T Bili:248/1.2,
   Amylase / Lipase:76/67, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:211 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.7 g/dL, LDH:412 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   C. Diff negative X 1
   Assessment and Plan
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   multiple [**Hospital Unit Name 10**] admissions, currently in the ICU for respiratory failure.
   # Acute respiratory failure: extubated [**5-11**]. likely [**1-1**] shock -
   cardiogenic (TTE [**5-7**] w LVEF 25%) vs septic (infxn).
   - monitor respiratory status
   - check ABG
   - O2 by face mask, wean as tolerated
   - treat possible cardiogenic and septic shock (see below)
   # Hypotension/Shock: Blood pressure currently stable. Etiology
   cardiogenic vs septic or both. Cardiogenic shock in the setting of
   severe acute on chronic CHF [**1-1**] chemotherapy, LVEF 25% on TTE [**5-7**].
   Total body volume overloaded. Sepsis [**1-1**] infection w possible sources
   including prior VRE infection, VRE line infection (s/p R femoral venous
   TLC removal on [**5-7**]), Klebsiella PNA ([**4-26**], [**4-29**] sputum cxs growing
   pan-sensitive Klebsiella). Now s/p new line placement [**5-7**].
   - continue broad antimicrobial coverage: meropenem (6/8
 [**5-12**]),
   daptomycin (5/18
 [**5-13**]), ciprofloxacin (6/9
 [**5-10**]), atovaqone,
   acyclovir ppx
   - monitor UOP
   - f/u bl cxs, UA, urine cx, sputum cx
   - lasix diuresis goal of -1 L per 24 hrs, order lasix 40 mg IV this am
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however, infected Omaya removed on [**4-16**] and indwelling left
   femoral venous TLC removed on [**5-7**]. S/p linezolid, now switched to
   daptomycin.
   - daptomycin (5/18
 [**5-13**]) through Sunday
   - f/u bl cxs
   - ID recs
   # Hyponatremia: Improving, likely [**1-1**] SIADH.
   - monitor lytes [**Hospital1 **]
   - tube feed with NS flushes
   - f/u renal recs
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis. Stable.
   - Ativan prn
   # Anemia:  [**1-1**] chemo, malignancy and acute blood loss from procedures.
   - active type and screen
   - transfuse for <25 (1 pRBCs today)
   # Thrombocytopenia: [**1-1**] chemo and malignancy
   - monitor PLT levels
   - transfuse for < 20
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   # Hypothyroidism:  will start IV levothyroxine if unable to take tube
   feeds.
   # Anion-gap metabolic acidosis: Likely from tissue hypoperfusion in the
   setting of hypotension/shock, however, ddx also included linezolid side
   effect vs thiamine deficiency. Lactate 14.4 on ICU transfer, now
   lactate stable ~2. Linezolid switched to daptomycin.  Resolved.
   - continue to monitor lactate levels
   - PO thiamine (IV was held off due to possible contamination with
   latex)
   # Coagulopathy: stable elevated INR
   - Monitor INR.
   ICU Care
   Nutrition: NG for tube feeds, placing NGT today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM
   Arterial Line - [**2176-5-7**] 08:49 PM
   Prophylaxis:
   DVT: penumoboots
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will diuresis and place NTG, then transfer to floor if
   stable.
   ------ Protected Section ------
    MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  60 yo F with ALL recurrence with prolonged
   hospital course c/b difficult to clear high grade VRE bacteremia, prior
   ICU transfer for AMS, sepsis with PEA arrest, resp failure and VRE
   ommaya shunt infection, s/p removal and evac of SDH.  Has advanced
   cardiac dysfunction-- TTE with global HK and EF 20%.  Returned to ICU
   with acidosis and hypotension felt [**1-1**] cardiogenic + septic shock now
   doing well post extubation. Had profound lactic acidosis felt likely
   related to linezolid mitochondrial toxicity which also improved.
   Diuresed with lasix 40 with good u/o response.
   Exam:  AF   HR 93-111  bp 120/80   rr 20  sat 100% (35% FT)   -1.2L
   Alert, awake, responding to questions/following commands
   rales b/l bases
   rr, mildly tachy
   + BS soft
   dep edema (slightly improved)
   LABS: hct 25.5  wbc 8.0  plt  57  na 135  bun 14  cr 0.6   abg
   7.5/34/145
   Micro: Klebsiella pneumonia from sputum, cmv igg +, c diff neg
   Issues include:
     * Acute resp failure (resolved, extubated)
     * Shock (resolved)-cardiogenic/septic etiology
     * Klebsiella pna
     * hyponatremia (improving)
     * resp alkalosis (persistent during this hospitalization)
     * CMP (ef 20%)
     * ALL recurrence
         Coagulaopathy
         Anemia (stable)
   Continues to improve--doing well from respiratory standpoint post
   extubation
on 35% FT. Agree with plan to continue
   antibx--for klebsiella pna ([**Last Name (un) 1540**] day [**6-4**] ) and persistent vre infection
   (to complete prolonged course Dapto on [**5-13**]).  Effussions/edema
   contributing to continued though low O2 requirement.  She is
   auto-diuresing well and tolerating intermittent IV lasix. Follow i/o's
   and give lasix as needed to achieve neg fluid balance (of goal 1L).
   Respiratory alkalosis is stable and has been present through much of
   pt
s course--? related to CNS infection/anxiety. Per prior speech
   swallow eval should undergo video swallow--will place ngt
   for nutrition/po meds and arrange. Hyponatremia is improving with free
   water restriction, will continue to monitor.
   ICU: Fem line, boots, ssi, H2B
   Remainder of plan as outlined in resident note.
   Will monitor closely in ICU, continue to diurese and initiate TFs.  Can
   likely transferr to floor tomorrow.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2176-5-12**] 12:30 PM ------

2176-05-13 07:46:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Started TFs
   - Meropenum completed [**2176-5-12**], Daptomycin completed [**2176-5-13**]
   - I/O goal -629 cc (held off on more diuresis due to tachy)
   - 250 cc bolus X 2 due to tachycardia, low urine output
   - D/C
d A-line
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-5-10**] 08:00 AM
   Daptomycin - [**2176-5-12**] 04:15 PM
   Meropenem - [**2176-5-12**] 06:30 PM
   Acyclovir - [**2176-5-12**] 11:55 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-5-12**] 09:50 AM
   Famotidine (Pepcid) - [**2176-5-12**] 07:30 PM
   Lorazepam (Ativan) - [**2176-5-13**] 04:42 AM
   Other medications:
   Flowsheet Data as of  [**2176-5-13**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 103 (101 - 119) bpm
   BP: 91/57(65) {91/52(64) - 124/80(84)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.8 kg (admission): 61 kg
   Height: 63 Inch
             Total In:
                                                                  2,283 mL
                                                                    115 mL
   PO:
             TF:
                                                                    210 mL
   IVF:
                                                                  1,863 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  2,397 mL
                                                                    215 mL
   Urine:
                                                                  2,297 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -114 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.50/34/145/24/4
   PaO2 / FiO2: 414
   Physical Examination
   GEN: extubated, responds to questions, still very edematous
   CHEST: bilateral breath sounds
   ABD: soft, NT
   EXT: 3+ edema
   NEURO: moves hands, wiggles toes
   Labs / Radiology
   77 K/uL
   9.2 g/dL
   127 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.8 mEq/L
   15 mg/dL
   100 mEq/L
   137 mEq/L
   26.4 %
   12.5 K/uL
        [image002.jpg]
                             [**2176-5-10**]  10:55 PM
                             [**2176-5-11**]  02:51 AM
                             [**2176-5-11**]  03:53 AM
                             [**2176-5-11**]  04:50 AM
                             [**2176-5-11**]  05:59 AM
                             [**2176-5-11**]  04:39 PM
                             [**2176-5-12**]  05:18 AM
                             [**2176-5-12**]  08:20 AM
                             [**2176-5-12**]  04:42 PM
                             [**2176-5-13**]  03:14 AM
   WBC
   6.6
   8.0
   12.5
   Hct
   27.3
   25.5
   26.4
   Plt
   46
   57
   77
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   19
   21
   21
   22
   27
   Glucose
   101
   108
   82
   107
   127
   Other labs:
   PT / PTT / INR:19.7/39.3/1.8,
   CK / CKMB / Troponin-T:77/14/0.26,
   ALT / AST:43/44, Alk Phos / T Bili:297/1.1,
   Amylase / Lipase:76/67,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0
   %,
    Fibrinogen:211 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:415 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   multiple [**Hospital Unit Name 10**] admissions, currently in the ICU for respiratory failure.
   # Hypotension/Shock: Poor urine output with tachycardia following Lasix
   dose yesterday. Received small boluses yesterday however is third
   spacing. Blood pressure currently stable. Etiology of shock cardiogenic
   vs septic or both. Cardiogenic shock in the setting of severe acute on
   chronic CHF [**1-1**] chemotherapy, LVEF 25% on TTE [**5-7**]. Sepsis [**1-1**] infection
   w possible sources including prior VRE infection, VRE line infection
   (s/p R femoral venous TLC removal on [**5-7**]), Klebsiella PNA ([**4-26**], [**4-29**]
   sputum cxs growing pan-sensitive Klebsiella), s/p new line placement
   [**5-7**].
   - completed meropenem (6/8
 [**5-12**]), daptomycin (5/18
 [**5-13**]),
   ciprofloxacin (6/9
 [**5-10**])
   - monitor UOP, hold off on further Lasix
   - if UOP continues to decrease Albumin to increase intravascular load
   - f/u bl cxs, UA, urine cx, sputum cx
   # Acute respiratory failure: likely [**1-1**] shock - cardiogenic (TTE [**5-7**] w
   LVEF 25%) vs septic (infxn). Extubated [**5-11**], on face tent.
   - monitor respiratory status and ABG as needed
   - O2 by face mask/tent, wean as tolerated
   - treat possible cardiogenic and septic shock (as above)
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however, infected Omaya removed on [**4-16**] and indwelling left
   femoral venous TLC removed on [**5-7**]. S/p linezolid, now switched to
   daptomycin.
   - completed meropenem (6/8
 [**5-12**]), daptomycin (5/18
 [**5-13**]),
   ciprofloxacin (6/9
 [**5-10**])
   - f/u bl cxs
   - ID recs
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis. Stable.
   - Ativan prn
   # Anemia:  [**1-1**] chemo, malignancy and acute blood loss from procedures.
   - active type and screen
   - transfuse for <25 (1 pRBCs today)
   # Thrombocytopenia: [**1-1**] chemo and malignancy
   - monitor PLT levels
   - transfuse for < 20
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   # Hypothyroidism:  will start IV levothyroxine if unable to take tube
   feeds.
   # Hyponatremia: Resolved.
   # Coagulopathy: stable elevated INR
   - Monitor INR.
   ICU Care
   Nutrition: tube feeds through NG tube
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Monitor ICU for adequate urine output
   ------ Protected Section ------
   I have seen and examined the patient and reviewed the resident
s note
   including the assessment and plan and agree with the following
   modifications/emphasis:
   60 yo woman with ALL who has been in an out of the [**Hospital Ward Name 77**] ICU during
   her prolonged hospital course. She is s/p allogeneic non-related donor
   SCT in [**2169**] followed by relapse in [**2170**]. She then had donor lymphocyte
   infusion in [**2171**], which resulted in 4 years of disease free survival."
   This admission was complicated by difficult to clear VRE bacteremia
   where she had an indwelling femoral line for approximately 4 weeks
   because no other access obtainable at that time. . She was initially
   transferred to the [**Hospital Unit Name 10**] on [**4-13**] in setting of likely developing sepsis
   in the setting of AMS. After arrival, pt had a PEA arrest, intubated,
   VRE grew from CSF cultures, and neurosurgery removed her Omaya
   reservior and evacuated a subdural hematoma. At that time, TTE showed
   global hypokinesis with LVEF 20%. Her respiratory and neurologic status
   improved and transferred to BMT floor on [**4-21**]. Returned to the ICU with
   respiratory failure and shock,- this time, we were able to re-site the
   line to the right femoral and now she is improving.  She is off the
   ventilator and has been doing well from a respiratory standpoint.
   Overnight:  Her urine output was low overnight and had some tachycardia
   T 96.7  P 113  BP 113/69  SaO2: 100%
   Gen: Awake, alert NAD
   Chest: CTA bilaterally
   Cor: S1 S2 reg
   Abd: soft NTND
   Ext: +1 edema bilaterally
   Cultures:
   Klebsiella pneumonia from sputum otherwise no new culture growth
   Assessment/Plan:
   1) Acute Respiratory Failure:
   a. Now extubated and respiratory status ok
   b. Continue to monitor
   2) Metabolic Acidosis
   a. Resolved
   3) Decreased urine output: Follow urine output
 if decreases again,
   will try some albumin as she seems to be intra-vascularly depleted yet
   total body overload
   4) Hypokalemia: replace as needed
   5) Anemia:
   6) Nutritional: Tube feedings
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2176-5-13**] 18:37 ------

2176-05-14 07:30:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
   - pt more lethargic during the day
   - Sp & Sw - continue strict NPO and NGT feeds
   - tube feeds increased to 20cc/hr
   - low UOP, given albumin 25gm x2 w no response, improved by the morning
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Meropenem - [**2176-5-12**] 06:30 PM
   Daptomycin - [**2176-5-13**] 04:16 PM
   Acyclovir - [**2176-5-14**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-5-13**] 08:00 AM
   Lorazepam (Ativan) - [**2176-5-13**] 12:54 PM
   Famotidine (Pepcid) - [**2176-5-13**] 09:00 PM
   Furosemide (Lasix) - [**2176-5-14**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-14**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 107 (105 - 119) bpm
   BP: 96/70(75) {43/21(26) - 138/87(100)} mmHg
   RR: 20 (20 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.8 kg (admission): 61 kg
   Height: 63 Inch
           Total In:
                                                                  1,790 mL
                                                                    588 mL
   PO:
           TF:
                                                                    255 mL
                                                                    235 mL
   IVF:
                                                                  1,160 mL
                                                                    175 mL
   Blood products:
                                                                    375 mL
                                                                    178 mL
   Total out:
                                                                    458 mL
                                                                  1,402 mL
   Urine:
                                                                    408 mL
                                                                  1,402 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,332 mL
                                                                   -814 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GEN: extubated, responds to questions, still very edematous
   CHEST: bilateral breath sounds
   ABD: soft, NT
   EXT: 3+ edema
   NEURO: moves hands, wiggles toes
   Labs / Radiology
   81 K/uL
   8.0 g/dL
   114 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   20 mg/dL
   99 mEq/L
   140 mEq/L
   23.1 %
   14.4 K/uL
        [image002.jpg]
                             [**2176-5-11**]  03:53 AM
                             [**2176-5-11**]  04:50 AM
                             [**2176-5-11**]  05:59 AM
                             [**2176-5-11**]  04:39 PM
                             [**2176-5-12**]  05:18 AM
                             [**2176-5-12**]  08:20 AM
                             [**2176-5-12**]  04:42 PM
                             [**2176-5-13**]  03:14 AM
                             [**2176-5-13**]  06:42 PM
                             [**2176-5-14**]  01:52 AM
   WBC
   8.0
   12.5
   14.4
   Hct
   25.5
   26.4
   23.1
   Plt
   57
   77
   81
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.8
   TCO2
   21
   21
   22
   27
   Glucose
   108
   82
   107
   127
   94
   114
   Other labs: PT / PTT / INR:19.7/39.3/1.8, CK / CKMB /
   Troponin-T:77/14/0.26, ALT / AST:33/51, Alk Phos / T Bili:321/2.2,
   Amylase / Lipase:76/67, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:211 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.7 g/dL, LDH:429 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 SHOCK, CARDIOGENIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   60F w ALL s/p transplant, chemotherapy and donor lymphocyte infusion,
   now w prolonged hospitalization c/b VRE bacteremia w CNS involvement,
   multiple [**Hospital Unit Name 10**] admissions, currently in the ICU for respiratory failure.
   # Hypotension/Shock: Poor urine output with tachycardia. Improved UO
   with IV albumin and lasix. Blood pressure currently stable. Etiology of
   shock cardiogenic vs septic or both. Cardiogenic shock in the setting
   of severe acute on chronic CHF [**1-1**] chemotherapy, LVEF 25% on TTE [**5-7**].
   Sepsis [**1-1**] infection w possible sources including prior VRE infection,
   VRE line infection (s/p R femoral venous TLC removal on [**5-7**]),
   Klebsiella PNA ([**4-26**], [**4-29**] sputum cxs growing pan-sensitive Klebsiella),
   s/p line placement [**5-7**].
   - completed meropenem (6/8
 [**5-12**]), daptomycin (5/18
 [**5-13**]),
   ciprofloxacin (6/9
 [**5-10**])
   - monitor UOP
   - f/u bl cxs, UA, urine cx, sputum cx
   # Acute respiratory failure: likely [**1-1**] shock - cardiogenic (TTE [**5-7**] w
   LVEF 25%) vs septic (infxn). Extubated [**5-11**], on NC.
   - monitor respiratory status
   - O2 by NC as needed
   - gently diruesis for next 1-2 days, careful to avoid over diuresis
   # VRE bacteremia with CNS involvement: Nothing growing on cultures
   since [**4-12**]; however, infected Omaya removed on [**4-16**] and indwelling left
   femoral venous TLC removed on [**5-7**]. S/p linezolid, now switched to
   daptomycin.
   - completed meropenem (6/8
 [**5-12**]), daptomycin (5/18
 [**5-13**]),
   ciprofloxacin (6/9
 [**5-10**])
   - f/u bl cxs
   - ID recs
   # ALL: s/p allo non-related SCT ([**2169**]), s/p donor lymphocyte infusion,
   s/p chemotherapy. No current therapy indicated. Poor prognosis.
   - BMT recs
   # Anxiety: Has been a significant component of pt's presentation,
   although doubtful that anxiety was related to pt's tachypnea as she was
   likely compensating for worsening anion gap metabolic acidosis. Stable.
   - Ativan prn
   # Anemia:  [**1-1**] chemo, malignancy and acute blood loss from procedures.
   - active type and screen
   - transfuse for <25 (1 pRBCs today)
   # Thrombocytopenia: [**1-1**] chemo and malignancy
   - monitor PLT levels
   - transfuse for < 20
   # ? Asthma: Continue inhalers with atrovent and levalbuterol (unclear
   if this is an underlying diagnosis or these meds were started during
   her hospital course).
   # Hypothyroidism:  will start IV levothyroxine if unable to take tube
   feeds.
   # Hyponatremia: Resolved.
   # Coagulopathy: stable elevated INR
   - Monitor INR.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2176-5-13**] 08:00 AM 35 mL/hour
   Lines:
   Multi Lumen - [**2176-5-7**] 06:56 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely transition to floor today, have PT see pt.
   ------ Protected Section ------
   I have seen and examined the patient and reviewed the resident
s note
   including the assessment and plan and agree with the following
   modifications/emphasis:
   60 yo woman with ALL who has been in an out of the [**Hospital Ward Name 77**] ICU during
   her prolonged hospital course. She is s/p allogeneic non-related donor
   SCT in [**2169**] followed by relapse in [**2170**]. She then had donor lymphocyte
   infusion in [**2171**], which resulted in 4 years of disease free survival."
   This admission was complicated by difficult to clear VRE bacteremia
   where she had an indwelling femoral line for approximately 4 weeks
   because no other access obtainable at that time. . She was initially
   transferred to the [**Hospital Unit Name 10**] on [**4-13**] in setting of likely developing sepsis
   in the setting of AMS. After arrival, pt had a PEA arrest, intubated,
   VRE grew from CSF cultures, and neurosurgery removed her Omaya
   reservior and evacuated a subdural hematoma. At that time, TTE showed
   global hypokinesis with LVEF 20%. Her respiratory and neurologic status
   improved and transferred to BMT floor on [**4-21**]. Returned to the ICU with
   respiratory failure and shock,- this time, we were able to re-site the
   line to the right femoral and now she is improving. She is off the
   ventilator and has been doing well from a respiratory standpoint.
   Overnight: Her urine output was very low but after albumin followed by
   lasix it picked up remarkably
   T 96.7 P 110   BP 96/67    RR 20   100% on NC 3 liters
   Gen: Awake, alert NAD
   Chest: CTA bilaterally
   Cor: S1 S2 reg
   Abd: soft NTND
   Ext: +1 edema bilaterally
   Cultures:
   Klebsiella pneumonia from sputum otherwise no new culture growth
   Assessment/Plan:
   1) Acute Respiratory Failure:
   a. Now extubated and respiratory status much improved.  Does have some
   mild hypoxia requiring 3 liters of NC but she is saturating at 100%
   with this and is breathing very comfortably.  Her continued hypoxia is
   likely from pulmonary edema and she continues to be diuresed
   b. Continue gentle diuresis
   2) Decreased urine output: Much improved with albumin/lasix
   4) Hypokalemia: replace as needed
   5) Anemia:
   6) Nutritional: Tube feedings
   7) Physical Therapy
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2176-5-15**] 12:38 AM ------